US09278968B2
To a solution of 5.8 g of 3-(cyclohexylmethoxy)pyridin-2-amine in 100 ml of toluene were added 4.3 ml of ethyl 2-chloro-3-oxobutanoate and 4.3 ml of triethylamine, followed by stirring overnight under heating to reflux. To the reaction mixture were added 1 ml of ethyl 2-chloro-3-oxobutanoate and 1 ml of triethylamine, followed by stirring for 6.5 hours under heating to reflux. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography. To the purified product thus obtained were added ethyl acetate and hexane, followed by heating and stirring, and then stirring under ice-cooling. The resulting solid was collected by filtration to obtain 4.0 g of ethyl 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylate.

reactant | 3-(cyclohexylmethoxy)pyridin-2-amine | 5.8 g | C1(CCCCC1)COC=1C(=NC=CC1)N | C12H18N2O
reactant | ethyl 2-chloro-3-oxobutanoate | 4.3 ml | ClC(C(=O)OCC)C(C)=O | C6H9ClO3
reactant | triethylamine | 4.3 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-chloro-3-oxobutanoate | 1 ml | ClC(C(=O)OCC)C(C)=O | C6H9ClO3
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylate | 4.0 g | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)OCC | C18H24N2O3
